US06727264B1
1-(3-CHLOROPROPOXY)-4-FLUOROBENZENE:
Prepared by Procedure U and Scheme AK using 4-fluorophenol and 1-bromo-3-chloropropane.

reactant | 4-fluorophenol | FC1=CC=C(C=C1)O | C6H5FO
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
product | 1-(3-CHLOROPROPOXY)-4-FLUOROBENZENE | ClCCCOC1=CC=C(C=C1)F | C9H10ClFO
